US04507498
A mixture of 4 g (0.013 mol) of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester, 17 g (0.065 mol) of diethylene glycol dimesylate and 3.6 g (0.026 mol) of anhydrous potassium carbonate in 80 ml of anhydrous acetone and 40 ml of anhydrous dimethylformamide was stirred at reflux for 20 hours. An additional 1.8 g of potassium carbonate was added and reflux was continued for a total of 44 hours. The reaction mixture was filtered and concentrated in vacuo to an orange oil which was treated with ethyl acetate and sodium chloride solution. The yellow oil obtained on concentration of the ethyl acetate was purified by HPLC, eluting with 15% ethyl acetate/toluene to yield 4.1 g (67% yield) of 4-[4-acetyl-3-[2-[2-[(methylsulfonyl)oxy]ethoxy]-ethoxy]-2-propylphenoxy]butanoic acid ethyl ester as a yellow oil.

reactant | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester | 0.013 mol, 4 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C17H24O5
reactant | diethylene glycol dimesylate | 0.065 mol, 17 g | S(C)(=O)(=O)OCCOCCOS(C)(=O)=O | C6H14O7S2
reactant | potassium carbonate | 0.026 mol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-[4-acetyl-3-[2-[2-[(methylsulfonyl)oxy]ethoxy]-ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 4.1 g, 67% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOS(=O)(=O)C)CCC)=O | C22H34O9S
